US08017607B2
A mixture of rac-(2S,3S,4S)-2-(3-chloro-2-fluoro-phenyl)-3-(4-chloro-2-fluoro-phenyl)-4-(2,2-dimethyl-propyl)-pyrrolidine-3-carbonitrile (60.8 mg, 0.144 mmol) and 2-chloro-5-isocyanatopyridine (109.1 mg, 0.144 mmol, Maybridge) in CH2Cl2 (6 mL) was stirred at rt for 16 hrs. The reaction mixture was then purified by flash column to give rac-(2S,3S,4S)-2-(3-chloro-2-fluoro-phenyl)-3-(4-chloro-2-fluoro-phenyl)-3-cyano-4-(2,2-dimethyl-propyl)-pyrrolidine-1-carboxylic acid (6-chloro-pyridin-3-yl)-amide (59.1 mg, 71.1%). HRMS (ES+) m/z Calcd for C28H25Cl3F2N4O+H [(M+H)+]: 577.1135; Found: 577.1135.

reactant | rac-(2S,3S,4S)-2-(3-chloro-2-fluoro-phenyl)-3-(4-chloro-2-fluoro-phenyl)-4-(2,2-dimethyl-propyl)-pyrrolidine-3-carbonitrile | 0.144 mmol, 60.8 mg | ClC=1C(=C(C=CC1)C1NCC(C1(C#N)C1=C(C=C(C=C1)Cl)F)CC(C)(C)C)F | C22H22Cl2F2N2
reactant | 2-chloro-5-isocyanatopyridine | 0.144 mmol, 109.1 mg | ClC1=NC=C(C=C1)N=C=O | C6H3ClN2O
solvent | CH2Cl2 | 6 mL | C(Cl)Cl | CH2Cl2
product | rac-(2S,3S,4S)-2-(3-chloro-2-fluoro-phenyl)-3-(4-chloro-2-fluoro-phenyl)-3-cyano-4-(2,2-dimethyl-propyl)-pyrrolidine-1-carboxylic acid (6-chloro-pyridin-3-yl)-amide | 59.1 mg, 71.1% | ClC1=CC=C(C=N1)NC(=O)N1C(C(C(C1)CC(C)(C)C)(C#N)C1=C(C=C(C=C1)Cl)F)C1=C(C(=CC=C1)Cl)F | C28H25Cl3F2N4O
